US05082848
A solution of 3-butyryl-4-chloro-8-methoxyquinoline (0.80 g, 3 mmol) and 3-amino-4-methylbenzyl alcohol (0.48 g, 3.5 mmol) in dioxan (I0 ml) was heated at reflux for 1.5 hours, then the solvent evaporated. Aqueous sodium bicarbonate was added, the product extracted into dichloromethane, dried and evaporated. Recrystallisation from methanol gave 3-butyryl-4-(5-hydroxymethyl-2-methylphenylamino)-8-methoxyquinoline (0.65 g, 59%) 180°-181°.

reactant | 3-butyryl-4-chloro-8-methoxyquinoline | 3 mmol, 0.80 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)OC | C14H14ClNO2
reactant | 3-amino-4-methylbenzyl alcohol | 3.5 mmol, 0.48 g | NC=1C=C(CO)C=CC1C | C8H11NO
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(5-hydroxymethyl-2-methylphenylamino)-8-methoxyquinoline | 0.65 g, 59% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=CC(=C1)CO)C)OC | C22H24N2O3
